US05886051
N,O-Bis(2,4,6-trimethylbenzenesulfonyl)-4-piperidineethanol [(2) FIG. 5]
2-Mesitylenesulfonyl chloride (24.78 g, 0.113 mol) in pyridine (60 ml) was added all at once to 4-piperidineethanol (5.58 g, 43.2 mmol) in pyridine (25 ml) at -16° C.; the temperature rose to -11° C. The flask was stored in the refrigerator at 5.5° C. for 44 hours under argon. The reaction mixture was poured into ice (1 kg) and after 3 hours, 16.00 g (75%) of (2) as a yellow solid was filtered off: mp 93.5°-94° C.; NMR (CDCl3 /TMS) δ 1.4-2.1 (m, 7H), 2.27 (s, 6H), 2.44-2.96 (m+s, 14H), 3.37-3.69 (m, 2H), 3.97 (t, 2H, J=5), 6.90 and 6.93 (2s, 4H). Anal. calcd. for C25H35NO5S5 : C-60.82, H-7.15, N-2.84. Found: C-60.90, H-7.13, N2.85.

reactant | 2-Mesitylenesulfonyl chloride | 0.113 mol, 24.78 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
reactant | 4-piperidineethanol | 43.2 mmol, 5.58 g | N1CCC(CC1)CCO | C7H15NO
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | N,O-Bis(2,4,6-trimethylbenzenesulfonyl)-4-piperidineethanol | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)N1CCC(CC1)CCOS(=O)(=O)C1=C(C=C(C=C1C)C)C | C25H35NO5S2
